US07176224B2
C. 2-(4-Trifluoromethoxyphenoxy)-3-(4-hydroxyphenyl)-2-methyl-propionic acid ethyl ester
2-(4-Trifluoromethoxyphenoxy-3-(4-benzyloxyphenyl)-2-methyl-propionic acid ethyl ester (2.1 mmol) was dissolved in ethyl acetate (30 mL) and treated with 5% palladium on carbon (300 mg), and stirred under an atmosphere of hydrogen for 20 h. The suspension was filtered through celite and concentrated in vacuo to an oil.

reactant | 4-Trifluoromethoxyphenoxy-3-(4-benzyloxyphenyl)-2-methyl-propionic acid ethyl ester | 2.1 mmol | C(C)OC(C(CC1=CC=C(C=C1)OCC1=CC=CC=C1)(C)OC1=CC=C(C=C1)OC(F)(F)F)=O | C26H25F3O5
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 300 mg | [Pd] | Pd
product | 2-(4-Trifluoromethoxyphenoxy)-3-(4-hydroxyphenyl)-2-methyl-propionic acid ethyl ester | C(C)OC(C(CC1=CC=C(C=C1)O)(C)OC1=CC=C(C=C1)OC(F)(F)F)=O | C19H19F3O5
